2147-12-22 08:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Lethargy, polydiupsia, polyurira
   24 Hour Events:
   - gap clsoed to 8 as of this morning
   - Na 153, slowly trending down
   - insulin gtt at 3 units/hr
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2147-12-22**] 12:29 AM
   Heparin Sodium (Prophylaxis) - [**2147-12-22**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-22**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 70 (70 - 102) bpm
   BP: 145/79(96) {122/73(82) - 173/107(122)} mmHg
   RR: 13 (9 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    162 mL
                                                                  5,963 mL
   PO:
             1,000 mL
   TF:
   IVF:
                                                                    162 mL
                                                                  4,723 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                    590 mL
   Urine:
                                                                    610 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -448 mL
                                                                  5,382 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, confused,
   oriented to person and building type
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: regular rate, no mrg
   Peripheral Vascular: 2+ distal pulses bilatreally
   Respiratory / Chest:  CTAB
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no [**Location (un) **]
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, year, Movement: Non
   -purposeful, Tone: Normal
   Labs / Radiology
   152 K/uL
   14.2 g/dL
   316 mg/dL
   1.5 mg/dL
   27 mEq/L
   5.0 mEq/L
   30 mg/dL
   118 mEq/L
   153 mEq/L
   42.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2147-12-21**]  07:45 PM
                             [**2147-12-21**]  10:41 PM
                             [**2147-12-22**]  01:52 AM
                             [**2147-12-22**]  05:00 AM
   WBC
   10.5
   Hct
   42.4
   Plt
   152
   Cr
   2.1
   1.8
   1.6
   1.5
   Glucose
   665
   433
   363
   316
   Other labs: Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:1.5 mg/dL
   Fluid analysis / Other labs: Anion gap: 8
   Assessment and Plan
 HYPERGLYCEMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
   This is a 56 year-old male with a history of GERD, tobacco use, who
   presents with hyperglycemia and metabolic acidosis and polyuria,
   polydipsia, fatigue and weight loss consistent with new onset diabetes
   and HHKS vs DKA.  Likely HHKS with some element of ketosis from
   prolonged hyperglycemia (duration of symptoms 2 months) and severe beta
   cell dysfunction. Thought less likely to be DKA/DMI give late onset and
   very strong family history.
   # Hyperglycemia/Metabolic Acidosis: [**1-8**] new onset diabetes  Gap has
   closed to 8 with aggressive fluids, both volume and free water
   repletion with 1/2NS and D5W.  Patient with no prior history of
   diabetes.On admission Blood glc 1009, anion gap 35, ketonuria.  ABG
   7.30/40/102. Corrected sodium was 155.  This morning, glucose <300, AG
   8, Na 153. Once patient is taking po's can dose with Lantus and wean
   insulin gtt off.
   - insulin gtt at 3units/hr - goal to get to sugar to 250
   - continue 1/2NS at 400cc/hr to finish in 1 hour, then continue at
   200cc/hr and encourage po intake
   - continue D5W at 150cc/hr for hypernatremia/free water deficit.  Na
   currently at 153.
   - q4h lytes
   - d/c foley once able to use bedside urinal
   - [**Last Name (un) 303**] attending aware, to staff in this morning, appreciate recs
   - Lipid panel revels LDL of 246, tChol in 300's - needs statin
   - should be on ACE-I once renal function stabilizes
   - should be on daily ASA
   - will need [**Last Name (un) 303**] follow up as outpatient
   # Acute Renal Failure: Resolving, at 1.5 this morning.  Cr 2.6 on
   admission, baseline 1.1.  Likely [**1-8**] to severe volume depletion from
   persistenly hyperglycemia.  Also likely has some element of chronic
   renal insufficeny from untreated diabetes.
   - IVF as above
   - trend
   - should be started on ACE-I once renal function stabilitizes
   # Hypernatremia:   153 this morning, improving.  On admission, was 140
   which corrected to 155 with elevated glucose.  Got 4L NS in ED and
   hypernatremia [**1-8**] to large sodium dose from NS.
   - IVF as above wtih D5W for free water repletion, encourage po intake
   - trend lytes as above.
   # Hyperkalemia:  5 this morning, got IV given high risk for hypokalemia
   as acidosis corrected.  IV K repletion d/c'ed this morning.
   - trend lytes as above
   - replete with po prn
   #HypoPhos:  Likely [**1-8**] to aggressive rehydration
   - will give neutraphos
   -IVF as above
   - trend
   # Hypercalcemia: 11.5 on admission, now resolved
   # GERD: Continue home PPI
   # FEN: IVF as above, lytes monitoring/repletion as above, NPO for now
   until mental status clears.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   18 Gauge - [**2147-12-21**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:  With patient, brother
   [**Name (NI) 478**] [**Name (NI) **] [**Telephone/Fax (1) 5068**] and girlfriend [**Name (NI) 90**]
   [**Telephone/Fax (1) 5069**]
   Code status: Full code
   Disposition:ICU

2147-12-23 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2147-12-22**] 08:49 AM
   -AG closed early AM yesterday
   -Insulin gtt d/c'd [**First Name8 (NamePattern2) **] [**Last Name (un) 303**] recs. Started on ISS, Lantus
   -hypernatremia corrected 157->153->149->147->145
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-12-23**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-23**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 66 (61 - 84) bpm
   BP: 154/68(84) {101/54(64) - 154/81(100)} mmHg
   RR: 15 (9 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  8,823 mL
                                                                  1,517 mL
   PO:
                                                                  1,950 mL
                                                                    750 mL
   TF:
   IVF:
                                                                  6,633 mL
                                                                    527 mL
   Blood products:
   Total out:
                                                                  1,200 mL
                                                                    520 mL
   Urine:
                                                                  1,200 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,623 mL
                                                                    997 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished A. American Male in No acute
   distress
   Cardiovascular: S1, S2, no m/g/r, regular rate
   Peripheral Vascular: 2+ distal pulses bilatreally
   Respiratory / Chest:  CTAB
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no [**Location (un) **]
   Skin:  Warm
   Neurologic: Attentive, orientated x 3. Follows simple commands, pt
   sometimes will go on tangents though will complex questions.
   Labs / Radiology
   133 K/uL
   12.5 g/dL
   160 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.8 mEq/L
   14 mg/dL
   111 mEq/L
   146 mEq/L
   37.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2147-12-21**]  07:45 PM
                             [**2147-12-21**]  10:41 PM
                             [**2147-12-22**]  01:52 AM
                             [**2147-12-22**]  05:00 AM
                             [**2147-12-22**]  08:10 AM
                             [**2147-12-22**]  12:06 PM
                             [**2147-12-22**]  07:03 PM
                             [**2147-12-23**]  01:05 AM
                             [**2147-12-23**]  05:49 AM
   WBC
   10.5
   9.1
   Hct
   42.4
   37.1
   Plt
   152
   133
   Cr
   2.1
   1.8
   1.6
   1.5
   1.3
   1.2
   1.3
   1.1
   Glucose
   665
   433
   363
   [**Telephone/Fax (3) 5098**]
   290
   160
   Other labs: Albumin:3.5 g/dL, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:0.9
   mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPERGLYCEMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPOVOLEMIA (VOLUME DEPLETION - WITHOUT SHOCK)
   56 year-old male w/ a history of GERD, tobacco use, new onset diabetes
   presenting in DKA with closed anion gap on Lantus and slitiding scale.
   # Hyperglycemia/Metabolic Acidosis: [**1-8**] new onset diabetes  Pt AG
   continues to be closed at 8 since yesterday following aggressive
   fluids, both volume and free water repletion with 1/2NS and D5W.  Pt
   has been off Insulin gtt since yesterday and is now on ISS, 7u fixed
   Humalog with meals and Lantus [**First Name8 (NamePattern2) **] [**Last Name (un) 303**] recs.
   - Appreciate [**Last Name (un) 303**] recs, will continue ISS, fixed Humalog scale and
   Lantus
   - Lipid panel reveled LDL of 246, tChol in 300's on admission, pt was
   started on 40mg day
   - Will start pt on Lisinopril 5mg for his DM
   - Wil start daily ASA
   - Will need [**Last Name (un) 303**] follow up as outpatient
   # Acute Kidney Injury: Resolving back to baseline of 1.1 this morning
   from Cr 2.6 on admission, baseline 1.1.  [**Last Name (un) **] was likely [**1-8**] to severe
   volume depletion from persistenly hyperglycemia.  Also likely has some
   element of chronic renal insufficeny from untreated diabetes.
   - will continue to trend
   -started on Lisinopril 5mg
   # Hypernatremia:   149 this AM D5
 NS d/c
d yesterday after pt;s
   sodium was normal yesterday.  Will restart D51/2NS at 125cc/hr and
   check Na q4hours
   - will continue to trend lytes q4hrs
   -Restart D5
NS @ 125cc/hr
   # Mental Status: Yesterday pt stated his mentation was a little foggy,
   his mentation appears to be improved today however there are times when
   he does seem to go into a tangent when asked complex questions. He
   follows commands and has no other neuro deficits. [**Name8 (MD) 54**] RN last pt
   family stated he was back to baseline. Will discuss with pt
s family
   today whether he is back to his baseline, his prior
mental fogginess
   most likely [**1-8**] hypernatremic state.
   #HypoPhos:  Likely [**1-8**] to aggressive rehydration
   - will give neutraphos 2pkts
   - trend
   # GERD: Continue home PPI
   # FEN: Pt on diabetic diet, replete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2147-12-21**] 09:00 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely D/c to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr. [**Known lastname **] is now better oriented to place and time but on occasion will
   have tangential thought. He believes his polyuria has resolved and
   admits to being less thirsty. He denies issues with his breathing.
   Hehas been transitioned from IV insulin to subcutaneous insulin over
   the past 24 hrs.
   Exam notable for Tm of 97.8 BP of 154/68 HR of 66 RR of 8 with sat of
   99% on RA .  his exam is devoid of wheeze or rales and his mucous
   membranes are moist. There is no peripheral edema.
   Labs notable for WBC of 9.1 K, HCT of 37.1 , K+ of 3.8 and Na of 149 ,
   Cr of 1.1  Ag is now normal.CXR with no evidence for effusions or
   infiltrate
   Agree with plan to advance PO intake and liberalize fluids too. In the
   interim we will replete free water deficit intravenously. [**Last Name (un) 303**]
   colleagues will guide insulin dosing  and he will transition off the
   ICU to a regular floor. We will pay close attention to his mentation
   and attempt to normalize circadian physiology.
   Remainder of plan as outlined above.
   Patient is stable
   Total time: 25 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2147-12-23**] 01:32 PM ------